US04654369
Methyl 2-[N-(3-Hydroxypropyl)aminosulfonyl]-6-nitrobenzoate
A solution of methyl 2-chlorosulfonyl-6-nitrobenzoate (2.80 g, 10 mmol) in 100 ml of THF was cooled to ice temperature and stirred in an ice-bath while a solution of 3-amino-1-propanol (99%) (1.67 g, 22 mmol) was added dropwise over a period of 45 minutes. Stirring in the ice-bath was continued for 30 minutes. The reaction mixture then was acidified by addition of 3.0 ml of 1.2N HCl. The THF was evaporated under reduced pressure and the residue taken up in 100 ml of ethyl acetate. After extracting this solution with 4×20 ml of saturated NaCl solution, the ethyl acetate was evaporated and the residue recrystallized from a mixture of ethyl acetate and hexane to give 2.70 g (84.9%) of light yellow crystalline product, m.p., 87°-88.5°.

reactant | methyl 2-chlorosulfonyl-6-nitrobenzoate | 10 mmol, 2.80 g | ClS(=O)(=O)C1=C(C(=O)OC)C(=CC=C1)[N+](=O)[O-] | C8H6ClNO6S
reactant | 3-amino-1-propanol | 22 mmol, 1.67 g | NCCCO | C3H9NO
reactant | HCl | 1.2N, 3.0 ml | Cl | ClH
solvent | THF | 100 ml | C1CCOC1 | C4H8O
product | Methyl 2-[N-(3-Hydroxypropyl)aminosulfonyl]-6-nitrobenzoate | OCCCNS(=O)(=O)C1=C(C(=O)OC)C(=CC=C1)[N+](=O)[O-] | C11H14N2O7S
